US06294558B1
5-[4-(Methylsulfonyl)phenyl]-1-[4-(3-furyl)phenyl]-2-methyl-1H-pyrrole (Step 2)
The title compound was prepared according to the procedure of Example 35 using 1-(4-bromophenyl)-2-methyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole instead of 1-(4-bromophenyl)-2-[3-fluoro-4-(methylsulfonyl)phenyl]-5-methyl-1H-pyrrole and 3-furanboronic acid instead of 2-furanboronic acid in step 4.

reactant | 1-(4-bromophenyl)-2-methyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole | BrC1=CC=C(C=C1)N1C(=CC=C1C1=CC=C(C=C1)S(=O)(=O)C)C | C18H16BrNO2S
reactant | 3-furanboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 5-[4-(Methylsulfonyl)phenyl]-1-[4-(3-furyl)phenyl]-2-methyl-1H-pyrrole | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(N1C1=CC=C(C=C1)C1=COC=C1)C | C22H19NO3S
